US04183909
1.50 g (3.74 mmoles) of H-Nva-Asp-D-Phg-NH2.HCl are reacted with 1.50 g (3.74 mmoles) of BOC-Trp-OSu in 30 ml of DMF in the presence of 1.05 ml (7.5 mmoles) of triethylamine. Next day the reaction mixture is evaporated in vacuo, the residue is admixed with water, and the mixture is filtered. The obtained crude product, weighing 2.36 g, is recrystallized from 300 ml of 80% ethanol. 1.54 g (66.2%) of BOC-Trp-Nva-Asp-D-Phg-NH2 are obtained; m.p.: 240° C. (decomposition), Rf5 :0.35, [α]D :-60.5° (c: 1.0, in dimethyl formamide).

reactant | H-Nva-Asp-D-Phg-NH2.HCl | 3.74 mmoles, 1.50 g | N[C@@H](CCC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N.Cl
reactant | BOC-Trp-OSu | 3.74 mmoles, 1.50 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H23N3O6
reactant | triethylamine | 7.5 mmoles, 1.05 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | BOC-Trp-Nva-Asp-D-Phg-NH2 | 1.54 g, 66.2% | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C33H42N6O8
